*SPICE model for INA03170
*
.SUBCKT INA03170  OUT   IN   GND
* PI NETWORK TO SIMULATE TRANSMISSION LINE T1
C1T1    11      0       .070PF
LT1     11      12      .224NH
C2T1    12      0       .070PF
* PI NETWORK TO SIMULATE TRANSMISSION LINE T2
C1T2    14      0       .019PF
LT2     14      15      .034NH
C2T2    15      0       .019PF
* PI NETWORK TO SIMULATE TRANSMISSION LINE T3
C1T3    13      0       .098PF
LT3     13      16      .312NH
C2T3    16      0       .098PF
* Bond wire inductance
LIN         12      DIEIN   .35NH
LOUT     16      DIEOUT  .35NH
LGND     15      DIEGND  .10NH
* Contact inductance
LL1     IN      11      .05NH
LL2     GND     14      .01NH
LL3     OUT     13      .05NH
*Parasitic capacitances
CCEB    12      15      .02PF
CCEC    15      DIEOUT  .01PF
CCBC    12      DIEOUT  .02PF
* INSERT DIE MODEL
XNA03DIE DIEOUT  DIEIN   DIEGND  INA03
.ENDS
*
* chip model
.SUBCKT INA03   DIEOUT  DIEIN   DIEGND
RBIAS1   Q2E     14     330      
RBIAS2   Q3E     14     520      
RE2      Q3E     15      50      
RF1      DIEIN   14     750      
RF2      Q1C    DIEOUT  700      
LP1      Q1E    DIEGND   0.20NH
LP2      15     DIEGND   0.20NH
CP1      Q1E    DIEGND   0.35PF
CP2      15     DIEGND   0.50PF
C3     DIEOUT   DIEGND   0.25PF
C4       Q1C    DIEGND   0.036PF
C5     DIEIN    DIEGND   0.086PF
C13      Q2E    DIEGND   0.023PF
C14      14     DIEGND   0.036PF
CCOMP    Q3E      20     1.25PF
RES       20      15    25
XNA03Q1  Q1C     DIEIN   Q1E   DIEGND    A03Q1
XNA03Q2  DIEOUT   Q1C    Q2E   DIEGND    A03Q2
XNA03Q3  DIEOUT   Q2E    Q3E   DIEGND    A03Q3
.ENDS
* Q1 distributed base model
.SUBCKT A03Q1   Q1C     Q1B     Q1E    Q1S
RC1      C1      5     6.5     
RC2      5      Q1C   22.5     
RB1     Q1B      7     2.4     
RB2      7       8     7.5     
RB3      8       B1    6.3     
RE      E1      Q1E    0.55    
Q1      C1      B1     E1      QINA    180
DCD1    Q1B     C1     DMOD    292
DCD2    7       C1     DMOD    292
DCD3    8       C1     DMOD    146
DCS    Q1S      5      DMOD    1419
.ENDS
* Q2 distributed base model
.SUBCKT A03Q2   Q2C     Q2B     Q2E    Q2S
RC1      C1      5     5.5     
RC2      5      Q2C   80       
RB1     Q2B      7     8.4     
RB2      7       8    28       
RB3     8       B1    23.5     
RE      E1      Q2E    2.1     
Q1      C1      B1     E1      QINA    48
DCD1    Q2B     C1     DMOD    123
DCD2     7      C1     DMOD     79
DCD3     8      C1     DMOD     40
DCS     Q2S      5     DMOD    756
.ENDS
* Q3 distributed base model
.SUBCKT A03Q3   Q3C     Q3B     Q3E    Q3S
RC1      C1      5      7     
RC2      5      Q3C    27     
RB1     Q3B     7       3.6   
RB2      7      8      11.2   
RB3      8      B1      9.4   
RE      E1      Q3E     0.83  
Q1      C1      B1     E1      QINA    120
DCD1    Q3B     C1     DMOD    209
DCD2    7      C1     DMOD    198
DCD3    8      C1     DMOD     99
DCS    Q3S      5     DMOD2    1092
.ENDS
.MODEL  DMOD    D(IS=1E-25, CJO=2.4E-16, VJ=.76, M=.53, BV=45)
.MODEL  DMOD2    D(IS=1E-25, CJO=1.2E-16, VJ=.80, M=.50, BV=45, RS=1.0E+06)
.MODEL  QINA    NPN (BF=100, BR=2.5, IS=1.7E-18, VA=20, TF=12PS,
+               CJE=2.4E-15, VJE=1.01, MJE=0.6, PTF=25, XTB=1.818,
+               VTF=6, ITF=3E-4, IKF=1.3E-4, XTF=4, NF=1.03, ISE=5E-15,
+               NE=2.5)